US06140270
Preparation of 3-[3-(6-Methoxy-m-tolyl)-1,2-benzisoxazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 5-amino-3-(6-methoxy-m-tolyl)-1,2-benzisoxazole (8.40 g, 0.033 mol), 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one (7.60 g, 0.036 mol), and acetic acid is refluxed for three hours, cooled, poured onto ice, and diluted with water. The resultant aqueous mixture is filtered to obtain a solid. The solid is washed with water and dried to give the title product as a pink solid which is identified by NMR spectral analyses.

reactant | 5-amino-3-(6-methoxy-m-tolyl)-1,2-benzisoxazole | 0.033 mol, 8.40 g | NC=1C=CC2=C(C(=NO2)C=2C=C(C(=CC2)OC)C)C1 | C15H14N2O2
reactant | 2-dimethylamino-4-(trifluoromethyl)-6H-1,3-oxazin-6-one | 0.036 mol, 7.60 g | CN(C=1OC(C=C(N1)C(F)(F)F)=O)C | C7H7F3N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-[3-(6-Methoxy-m-tolyl)-1,2-benzisoxazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | COC1=CC=C(C=C1C)C1=NOC2=C1C=C(C=C2)N2C(NC(=CC2=O)C(F)(F)F)=O | C20H14F3N3O4
